US05278316
N-[(2-Adamantyloxy)carbonyl]-α-methyl-D-tryptophan
To a stirred solution of N-[(2-adamantyloxy)-carbonyl]α-methyl-D-tryptophan methyl ester (1.36 g, 3.3 mmol) in aqueous 1,4-dioxan (1:2) (20 mL) was added an excess of LiOH (0.210 g, 5 mmol) and stirred at room temperature overnight. After removing the solvent in vacuo the residue was chromatographed using 5% MeOH: 95% CH2Cl2 then 10% MeOH:90% CH2Cl2 as eluants to yield the acid (0.953 mg, 90%) as a white solid, crystallized from n-hexane, mp 210°-215° C. (EtOAc/n-hexane); IR (film) 1689 cm-1 ; NMR (CDCl3 -D2O), δ 1.3--2.2 (14H, m), 1.70 (3H, s), 3.26 (1H, d, J 1.35 Hz), 3.63 (1H, d, 13.5 Hz); 4.77 (1H, br.s), 6.85-7.60 (5H, m).

reactant | N-[(2-adamantyloxy)-carbonyl]α-methyl-D-tryptophan methyl ester | 3.3 mmol, 1.36 g | COC([C@](NC(=O)OC1C2CC3CC(CC1C3)C2)(CC2=CNC3=CC=CC=C23)C)=O | C24H30N2O4
reactant | LiOH | 5 mmol, 0.210 g | [Li+].[OH-]
solvent | 1,4-dioxan | 20 mL | O1CCOCC1 | C4H8O2
product | N-[(2-Adamantyloxy)carbonyl]-α-methyl-D-tryptophan | 0.953 mg, 90% | C12C(C3CC(CC(C1)C3)C2)OC(=O)N[C@](CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
